US09328106B2
To a solution of (3R)-ethyl 3-hydroxybutanoate (2.5 g, 18.9 mmol) in THF (100 mL) under nitrogen was added a solution of titanium(IV) isopropoxide (6.02 mL, 19.9 mmol) in THF (15 mL) followed by a solution of ethyl magnesium bromide in diethyl ether (3 M, 30.2 mL, 90.7 mmol) dropwise over a period of 2 hr. The reaction mixture was stirred for a further 2 hr, before being cooled to 0° C. and quenched by the slow addition of a saturated aqueous ammonium chloride (75 mL). The solution was filtered and the filtrate extracted with DCM (3×20 mL). The combined organic layers were washed with brine (75 mL), separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 1-[(2R)-2-hydroxybutyl]-cyclopropanol as a yellow oil (1.50 g). To a solution of this oil (900 mg, 7.76 mmol) in DCM (15 mL) cooled to 0° C. was added 2,6-lutidine (2.26 mL, 19.40 mmol) followed by trimethylsilyl trifluoromethanesulfonate (3.1 mL, 17.10 mmol). The reaction mixture was stirred at 0° C. for 2 hr before additional 2,6-lutidine (2.26 mL, 19.40 mmol) and trimethylsilyl trifluoromethanesulfonate (3.1 mL, 17.10 mmol) were added. The reaction mixture was allowed to warm to room temperature and stirred for 18 hr. The mixture was cooled to 0° C., quenched with 0.1 M aqueous HCl (15 mL) and extracted with DCM (50 mL). The organic layer was washed with 0.1 M aqueous HCl (2×15 mL) and passed through a phase separation cartridge. To this solution was added 2-methyl-4-nitro-pyrazole-3-carbaldehyde (1.90 g, 7.13 mmol) and the resulting solution was cooled to −78° C. before trimethylsilyl trifluoromethanesulfonate (0.64 mL, 3.56 mmol) was added dropwise. The mixture was warmed to 0° C. and stirred for 3 hr before being cooled to −78° C. and additional trimethylsilyl trifluoromethanesulfonate (1 mL, 5.49 mmol) was added. After stirring at 0° C. for 3 hr the procedure was repeated. The reaction mixture was stirred at 0° C. for a further 2 hr before solid sodium carbonate (2.5 g) was added. The reaction mixture was stirred for 10 min and a saturated solution of NaHCO3 (10 mL) was added. The organic layer was washed with water (10 mL) and brine (10 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 1-methyl-5-(5-ethyl-6,8-dioxaspiro[2.5]octan-7-yl)-4-nitro-pyrazole as a colourless solid (655 mg, 4% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.00 (s, 1H), 6.58 (s, 1H), 4.13 (s, 3H), 4.00-3.92 (m, 1H), 2.29 (t, J=12.4 Hz, 1H), 1.75-1.47 (m, 3H), 1.00-0.87 (m, 5H), 0.67-0.53 (m, 2H).

reactant | 2,6-lutidine | 19.40 mmol, 2.26 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 17.10 mmol, 3.1 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 2,6-lutidine | 19.40 mmol, 2.26 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | trimethylsilyl trifluoromethanesulfonate | 17.10 mmol, 3.1 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 2-methyl-4-nitro-pyrazole-3-carbaldehyde | 7.13 mmol, 1.90 g | CN1N=CC(=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | trimethylsilyl trifluoromethanesulfonate | 3.56 mmol, 0.64 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | trimethylsilyl trifluoromethanesulfonate | 5.49 mmol, 1 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | sodium carbonate | 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-5-(5-ethyl-6,8-dioxaspiro[2.5]octan-7-yl)-4-nitro-pyrazole | CN1N=CC(=C1C1OC(CC2(CC2)O1)CC)[N+](=O)[O-] | C12H17N3O4
